US07915424B2
3-(4-Fluoro-3-methylphenylethynyl)-5-methoxypyridine
Dissolve 3-bromo-5-methoxypyridine (1.0 g, 5.35 mmol) in diisopropylamine (17 mL) and toluene (10 mL) under nitrogen. Add tetrakis(triphenylphosphine)palladium (0.200 g, 0.16 mmol). Heat at 60° C. and add 4-ethynyl-1-fluoro-2-methylbenzene (717 mg, 5.35 mmol) and copper (I) iodide (20 mg, 0.11 mmol). After 20 h add additional 4-ethynyl-1-fluoro-2-methylbenzene (100 mg, 0.75 mmol) and heat at 60° C. for 5 h. Concentrate and purify using silica gel chromatography, eluting with 30:70 to 40:60 ethyl acetate:hexanes, to give the title compound (660 mg, 51%).

reactant | 3-bromo-5-methoxypyridine | 5.35 mmol, 1.0 g | BrC=1C=NC=C(C1)OC | C6H6BrNO
reactant | 4-ethynyl-1-fluoro-2-methylbenzene | 5.35 mmol, 717 mg | C(#C)C1=CC(=C(C=C1)F)C | C9H7F
reactant | 4-ethynyl-1-fluoro-2-methylbenzene | 0.75 mmol, 100 mg | C(#C)C1=CC(=C(C=C1)F)C | C9H7F
solvent | diisopropylamine | 17 mL | C(C)(C)NC(C)C | C6H15N
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 0.16 mmol, 0.200 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper (I) iodide | 0.11 mmol, 20 mg | [Cu]I
product | 3-(4-Fluoro-3-methylphenylethynyl)-5-methoxypyridine | 660 mg, 51% | FC1=C(C=C(C=C1)C#CC=1C=NC=C(C1)OC)C | C15H12FNO
